US07105680B1
4-bis(2-pyridylmethyl)aminomethyl-2-(4-hydroxyphenyl)benzoxazole (F28) was prepared in a similar manner for the preparation of 2-(5-methoxy-2-hydroxyphenyl)-4-(2-pyridylmethyl)aminomethylbenzoxazole (F23) using 4-bis(2-pyridylmethyl)aminomethyl-2-(4-methoxymethoxyphenyl)benzoxazole (F21) (686 mg, 1.47 mmol) instead of 2-(5-methoxy-2-methoxymethoxyphenyl)-4-(2-pyridylmethyl)aminomethylbenzoxazole (F16) in 81% (500 mg); 1H-NMR (500 MHz, CDCl3) δ3.97 (s, 4H), 4.18 (s, 2H), 6.88 (d, 2H, J=9.0 Hz), 7.16 (dd, 2H, J=8.0, 4.5 Hz), 7.24 (t, 1H, J=8.0 Hz), 7.40 (d, 1H, J=8.0 Hz), 7.45 (d, 2H, J=8.0 Hz), 7.69 (t, 2H, J=8.0 Hz), 7.79 (d, 2H, J=8.0 Hz), 8.00 (d, 2H, J=9.0 Hz), 7.24 (d, 2H, J=4.5 Hz).

reactant | 2-(5-methoxy-2-hydroxyphenyl)-4-(2-pyridylmethyl)aminomethylbenzoxazole | COC=1C=CC(=C(C1)C=1OC2=C(N1)C(=CC=C2)CNCC2=NC=CC=C2)O | C21H19N3O3
reactant | 4-bis(2-pyridylmethyl)aminomethyl-2-(4-methoxymethoxyphenyl)benzoxazole | 1.47 mmol, 686 mg | N1=C(C=CC=C1)CN(CC1=NC=CC=C1)CC1=CC=CC2=C1N=C(O2)C2=CC=C(C=C2)OCOC | C28H26N4O3
product | 4-bis(2-pyridylmethyl)aminomethyl-2-(4-hydroxyphenyl)benzoxazole | N1=C(C=CC=C1)CN(CC1=NC=CC=C1)CC1=CC=CC2=C1N=C(O2)C2=CC=C(C=C2)O | C26H22N4O2
